US06900227B2
Preparation of [2,2-bis-(3,5-dichloro-phenyl)-benzo[1,3]dioxol-5-yl]-morpholin-4-yl-methanone
This compound was prepared from 2,2-bis-(3,5-dichloro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid and morpholine according to Example 269f; waxy solid, MS: m/e=526 ([M+H]+).

reactant | 2,2-bis-(3,5-dichloro-phenyl)-benzo[1,3]dioxole-5-carboxylic acid | ClC=1C=C(C=C(C1)Cl)C1(OC2=C(O1)C=CC(=C2)C(=O)O)C2=CC(=CC(=C2)Cl)Cl | C20H10Cl4O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | [2,2-bis-(3,5-dichloro-phenyl)-benzo[1,3]dioxol-5-yl]-morpholin-4-yl-methanone | ClC=1C=C(C=C(C1)Cl)C1(OC2=C(O1)C=CC(=C2)C(=O)N2CCOCC2)C2=CC(=CC(=C2)Cl)Cl | C24H17Cl4NO4
